US07129250B2
Intermediate C12: 2-(6-methoxyindol-1-yl) acetamide
Intermediate C12 was prepared as described for Intermediate C2 using 6-methoxyindole (489 mg, 3.32 mmol), sodium hydride (160 mg, 3.98 mmol) and iodoacetamide (615 mg, 3.32 mmol) in DMF (50 mL). Two recrystallizations from ethyl acatete yielded intermediate C12 as a whte solid (252 mg, 37%). m.p. 210.1–211.0° C. 1H NMR (200 MHz, DMSO-D6) δ 7.48 (br s, 1H), 7.41 (d, 8.6 Hz, 1H), 7.25 (br s, 1H), 7.16 (d, 3.2 Hz, 1H), 6.91 (d, 2.0 Hz, 1H), 6.69 (dd, 6.4 Hz, 2.2 Hz, 1H), 6.35 (d, 0.8 Hz, 1H), 4.74 (s, 2H), 3.77 (s, 3H).

reactant | 6-methoxyindole | 3.32 mmol, 489 mg | COC1=CC=C2C=CNC2=C1 | C9H9NO
reactant | sodium hydride | 3.98 mmol, 160 mg | [H-].[Na+]
reactant | iodoacetamide | 3.32 mmol, 615 mg | ICC(=O)N | C2H4INO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-(6-methoxyindol-1-yl) acetamide | COC1=CC=C2C=CN(C2=C1)CC(=O)N | C11H12N2O2
